US05506228
6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(3-methylphenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile;
6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(3-chlorophenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile; 6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(4-chlorophenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile; 6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(2-chlorophenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile; 6-[(4-chloropheyl)thio]-(2,3-dihydro-2-(phenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile;

reactant | 6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(3-chlorophenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile | ClC1=CC=C(C=C1)SC=1C(=C(C(N(N1)C1=CC(=CC=C1)Cl)=O)C#N)C | C18H11Cl2N3OS
reactant | 6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(4-chlorophenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile | ClC1=CC=C(C=C1)SC=1C(=C(C(N(N1)C1=CC=C(C=C1)Cl)=O)C#N)C | C18H11Cl2N3OS
reactant | 6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(2-chlorophenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile | ClC1=CC=C(C=C1)SC=1C(=C(C(N(N1)C1=C(C=CC=C1)Cl)=O)C#N)C | C18H11Cl2N3OS
reactant | 2,3-dihydro-2-(phenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile | C1(=CC=CC=C1)N1N=CC(=C(C1=O)C#N)C | C12H9N3O
product | 6-[(4-chlorophenyl)thio]-2,3-dihydro-2-(3-methylphenyl)5-methyl-3-oxo-4-pyridazinecarbonitrile | ClC1=CC=C(C=C1)SC=1C(=C(C(N(N1)C1=CC(=CC=C1)C)=O)C#N)C | C19H14ClN3OS
